US05922919
2,6-Dichloro-5'-tert-butoxy-4'-methoxy-2'-methyl-benzophenone
A solution of 2,6-dichloro-5'-hydroxy-4'-methoxy-2-methyl-benzophenone (3.0 g; 9.6 mmol) in 50 ml of methylenechloride is cooled down to -70° C., trifluoromethanesulfonic acid (0.3 ml) is added, then a stream of 2-methylpropene (5.5 g; 100 mmol) is introduced within 4 hours. Triethylamine (1.2 ml) is added, the temperature goes up to 20° C. The solution is shaken twice with diluted sodium hydroxide and the solvent is evaporated. The residue is purified chromatographically (flash column with 30 g of silicagel, elution with toluene/acetone 20:1 (v/v)). The residue is treated with petrolether to give 0.7 g of white crystalls (20% y); mp. 102° C.

reactant | 2,6-dichloro-5'-hydroxy-4'-methoxy-2-methyl-benzophenone | 9.6 mmol, 3.0 g | ClC1(C(C(=O)C2=CC=C(C(=C2)O)OC)C(=CC=C1)Cl)C | C15H14Cl2O3
reactant | trifluoromethanesulfonic acid | 0.3 ml | FC(S(=O)(=O)O)(F)F | CHF3O3S
reactant | 2-methylpropene | 100 mmol, 5.5 g | CC(=C)C | C4H8
reactant | sodium hydroxide | [OH-].[Na+]
solvent | methylenechloride | 50 ml | C(Cl)Cl | CH2Cl2
solvent | Triethylamine | 1.2 ml | C(C)N(CC)CC | C6H15N
product | 2,6-Dichloro-5'-tert-butoxy-4'-methoxy-2'-methyl-benzophenone | ClC1=C(C(=O)C2=C(C=C(C(=C2)OC(C)(C)C)OC)C)C(=CC=C1)Cl | C19H20Cl2O3
